US04030925
4. 1-Benzoyl-2-(4-aminophenyl)hydrazine
1-Benzoyl-2-(4-nitrophenyl)hydrazine (14.3 g, 0.056 mole) and 10% palladium/charcoal (catalytic amount) were suspended in ethanol (300 ml) in a Parr shaker bottle. The reaction mixture was hydrogenated at room temperature until hydrogen uptake ceased. The reaction mixture was filtered and the solvent was evaporated from the filtrate leaving a tan crystalline powder. Yield 11.5 g (90%), m.p. 134°-136° C.

reactant | 1-Benzoyl-2-(4-nitrophenyl)hydrazine | 0.056 mole, 14.3 g | C(C1=CC=CC=C1)(=O)NNC1=CC=C(C=C1)[N+](=O)[O-] | C13H11N3O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | palladium/charcoal | [Pd] | Pd
product | 1-Benzoyl-2-(4-aminophenyl)hydrazine | C(C1=CC=CC=C1)(=O)NNC1=CC=C(C=C1)N | C13H13N3O
